US06972295B2
Step C 5-Methyl-3-phenyl-2-hexanone
To a solution of 75 mg (0.317 mmol) N-methoxy-N-methyl-4-methyl-2-phenylpentanamide in 1 mL dry THF, 0.45 mL 1.4 M methylmagnesium bromide was added. The reaction was stirred for 1 h, quenched with 1.2 N HCl and extracted with EtOAc. The EtOAc solution was washed with brine, dried and concentrated leaving the title compound. 1H NMR: (500 MHz, CDCl3): δ 0.95 (2d, 6H), 1.42 (m, 1H), 1.67 (m, 1H), 1.9 (m, 1H), 2.06 (s, 3H), 3.73 (m, 1H), 7.0-7.4 (m, 5H).

reactant | N-methoxy-N-methyl-4-methyl-2-phenylpentanamide | 0.317 mmol, 75 mg | CON(C(C(CC(C)C)C1=CC=CC=C1)=O)C | C14H21NO2
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | methylmagnesium bromide | 1.4 M, 0.45 mL | C[Mg]Br
product | 5-Methyl-3-phenyl-2-hexanone | CC(CC(C(C)=O)C1=CC=CC=C1)C | C13H18O
